US08431563B2
A 150-mL round-bottomed flask was charged with di-tert-butyl (2R)-2-(((1-methylethyl)(methylsulfonyl)amino)methyl)-1,4-piperazinedicarboxylate (0.617 g, 1.42 mmol), HCl (4.0 M in 1,4-dioxane, 2.80 mL, 11.2 mmol) and EtOAc (20 mL). The mixture was heated at 70° C. for 18 h. The reaction mixture was allowed to cool to room temperature and the resulting white solid was collected by filtration. The solid was washed with EtOAc and to obtain N-(1-methylethyl)-N-((2R)-2-piperazinylmethyl)methanesulfonamide dihydrochloride (0.421 g) as a white solid.

reactant | di-tert-butyl (2R)-2-(((1-methylethyl)(methylsulfonyl)amino)methyl)-1,4-piperazinedicarboxylate | 1.42 mmol, 0.617 g | CC(C)N(S(=O)(=O)C)C[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H37N3O6S
reactant | HCl | 11.2 mmol, 4.0 M, 2.80 mL | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-(1-methylethyl)-N-((2R)-2-piperazinylmethyl)methanesulfonamide dihydrochloride | 0.421 g | Cl.Cl.CC(C)N(S(=O)(=O)C)C[C@@H]1NCCNC1 | InChI=1S/C9H21N3O2S.2ClH/c1-8(2)12(15(3,13)14)7-9-6-10-4-5-11-9;;/h8-11H,4-7H2,1-3H3;2*1H/t9-;;/m1../s1
